US05420151
3-Dipropylamino-5-trifluoromethanesulfonylchroman
3-Dipropylamino-5-hydroxychroman (Thorberg et al. Acta Pharm. Suec. 24(1987), the contents of which are hereby incorporated herein by reference) (1.4 g, 4.0 mmol) and N,N-dimethylaminopyridine (0.1 g, 0.75 mmol) were dissolved in 50 mL methylene dichloride (CH2Cl2) and cooled to -30° C. 2,4,6-Collidine (0.75 mL, 5.7 mmol) was added followed by trifluoromethane sulfonic anhydride (1.0 mL, 6.0 mmol).

reactant | 3-Dipropylamino-5-hydroxychroman | C(CC)N(C1COC2=CC=CC(=C2C1)O)CCC | C15H23NO2
reactant | 2,4,6-Collidine | 5.7 mmol, 0.75 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | trifluoromethane sulfonic anhydride | 6.0 mmol, 1.0 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene dichloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-Dipropylamino-5-trifluoromethanesulfonylchroman | C(CC)N(C1COC2=CC=CC(=C2C1)S(=O)(=O)C(F)(F)F)CCC | C16H22F3NO3S
